US06310243B1
5-[N′-(2,3,4-Trihydroxybutanoyl)amino]-3-hydroxymethyl-N-(2,3-dihydroxypropyl)-2,4,6-triiodobenzamide.
5-[N′-(2,3,4-Triacetoxybutanoyl)amino]-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide (13.8 g, 14.0 mmol) was hydrolysed using sodium hydroxide (4.0 g, 0.10 mol) according to the procedure given in Example 79c. The product was isolated in 68% yield after purification.

reactant | 5-[N′-(2,3,4-Triacetoxybutanoyl)amino]-3-acetoxymethyl-N-(2,3-diacetoxypropyl)-2,4,6-triiodobenzamide | 14.0 mmol, 13.8 g | C(C)(=O)OC(C(=O)NC=1C(=C(C(=C(C(=O)NCC(COC(C)=O)OC(C)=O)C1I)I)COC(C)=O)I)C(COC(C)=O)OC(C)=O | C27H31I3N2O14
reactant | sodium hydroxide | 0.10 mol, 4.0 g | [OH-].[Na+]
product | 5-[N′-(2,3,4-Trihydroxybutanoyl)amino]-3-hydroxymethyl-N-(2,3-dihydroxypropyl)-2,4,6-triiodobenzamide | OC(C(=O)NC=1C(=C(C(=C(C(=O)NCC(CO)O)C1I)I)CO)I)C(CO)O | C15H19I3N2O8
